US09193693B2
Step 2. 2-Phenyl-3-(4-(pyrimidin-2-yl)piperazin-1-yl)quinoxaline-6-carboxylic acid
Into a 50-mL round-bottom flask, was placed a solution of methyl 2-phenyl-3-(4-(pyrimidin-2-yl)piperazin-1-yl)quinoxaline-6-carboxylate (192 mg, 0.41 mmol, 1.00 equiv, 90%) in methanol (10 mL), a solution of sodium hydroxide (80 mg, 2.00 mmol, 5.00 equiv) in water (2 mL). The resulting solution was stirred overnight at 50° C. in an oil bath. The resulting mixture was concentrated under vacuum. The resulting mixture was washed with methanol. This resulted in 80 mg (47%) of 2-phenyl-3-(4-(pyrimidin-2-yl)piperazin-1-yl)quinoxaline-6-carboxylic acid as a yellow solid.

reactant | methyl 2-phenyl-3-(4-(pyrimidin-2-yl)piperazin-1-yl)quinoxaline-6-carboxylate | 0.41 mmol, 192 mg, 1.00 equiv | C1(=CC=CC=C1)C1=NC2=CC=C(C=C2N=C1N1CCN(CC1)C1=NC=CC=N1)C(=O)OC | C24H22N6O2
reactant | sodium hydroxide | 2.00 mmol, 80 mg, 5.00 equiv | [OH-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
solvent | water | 2 mL | O | H2O
product | 2-Phenyl-3-(4-(pyrimidin-2-yl)piperazin-1-yl)quinoxaline-6-carboxylic acid | C1(=CC=CC=C1)C1=NC2=CC=C(C=C2N=C1N1CCN(CC1)C1=NC=CC=N1)C(=O)O | C23H20N6O2
